US07842685B2
To a slurry of 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)methyl)azetidin-3-ol (0.100 g, 0.2 mmol) in 1 mL DCM under nitrogen at 0° C. was added (diethylamino)sulfur trifluoride (0.05 ml, 0.3 mmol). Upon consumption of starting material, the reaction was quenched with ice and 1 N NaOH. The reaction mixture was partitioned between water and DCM. The aqueous layer was extracted with DCM 3, and the combined cloudy organics were treated with a small amount of MeOH to give a solution, were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Purification by RPHPLC, gradient, TFA/ACN in TFA/H2O provided material that was taken up in DCM and washed with saturated aq. NaHCO3, dried over sodium sulfate, filtered, and concentrated in vacuo to give 2-(2-fluoro-4-((3-fluoroazetidin-1-yl)methyl)-phenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine as a solid. MS (ESI) m/z: Calculated: 433.1; Observed: 434.1 (M++1).

reactant | 1-((3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)methyl)azetidin-3-ol | 0.2 mmol, 0.100 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CN1CC(C1)O | C25H22FN3OS
reactant | (diethylamino)sulfur trifluoride | 0.3 mmol, 0.05 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-fluoro-4-((3-fluoroazetidin-1-yl)methyl)-phenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | FC1=C(C=CC(=C1)CN1CC(C1)F)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C25H21F2N3S
